* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt MAX41400 1 2 3 4 5 6 7 8 9 10
R1 A1O A1N 20k Noiseless
A1 N014 4 4 4 4 4 G2 4 SCHMITT Vt=0.5 Vh=0.2 Trise=100n
C3 G2 4 10p Rpar=1G
C4 G1 4 10p Rpar=1G
C5 G0 4 10p Rpar=1G
C2 GainInd 4 1p Rpar=1k Noiseless
G1 4 GainInd G0 4 1m
G2 4 GainInd G1 4 2m
G3 4 GainInd G2 4 4m
A2 N017 4 4 4 4 4 G1 4 SCHMITT Vt=0.5 Vh=0.2 Trise=100n
A3 N022 4 4 4 4 4 G0 4 SCHMITT Vt=0.5 Vh=0.2 Trise=100n
A4 N013 N021 4 4 4 4 Vsmin 4 SCHMITT Vt={Vsmin-100m} Trise=10n
A6 N013 4 4 4 4 Vsmax 4 4 SCHMITT Vt={Vsmax} Trise=10n Vh=0
A7 Vsmax 4 Vsmin 4 _SHDN 4 EN 4 AND Trise={2*ENTon} Tfall={2*ENToff}
Biq N013 N021 I=IF(V(EN,4)>0.5, V(Iq,4),{Iq_off})
C13 EN 4 10p Rpar=1G
C15 Vsmin 4 10p Rpar=1G
C16 Vsmax 4 10p Rpar=1G
C7 N015 4 1p Rpar=1G
C8 N018 4 1p Rpar=1G
C9 N023 4 1p Rpar=1G
C6 _SHDN 4 10p Rpar=1G
A5 N027 4 4 4 4 4 _SHDN 4 SCHMITT Vt=0.5 Vh=0.2 Trise=10n
C10 N026 4 1p Rpar=100Meg
C11 N013 4 1p Rpar=1G
R2 A2O A2N 20k Noiseless
R6 N006 N005 20k Noiseless
R7 A3O N009 20k Noiseless
R15 N030 4 1Meg Noiseless
G7 4 N030 N029 4 1µ
G8 4 N029 N028 4 {Avo2_in/1Meg}
G9 4 N028 A1P A1N 100µ
C20 N028 4 1e-18
R17 A1O 4 {Zo_dc_in}
G11 4 A1O N030 4 {1/Zo_dc_in}
R19 N034 4 1Meg Noiseless
G4 4 N034 N033 4 1µ
G12 4 N033 N035 4 {Avo2_in/1Meg}
G13 4 N035 A2P A2N 100µ
C23 N035 4 1e-18
R21 A2O 4 {Zo_dc_in}
G15 4 A2O N034 4 {1/Zo_dc_in}
R23 A3Oi 4 1Meg Noiseless
G5 4 A3Oi Clamp 4 1µ
G17 4 Avo3 A3P A3N 100µ
C26 Avo3 4 1e-18
C17 N029 N031 Q=x*Table(V(GainInd,4), 0, 1.59u, 1, 1.59u, 2, 455n, 3, 455n, 4, 1.77u, 5, 1.77u, 6, 1.61u)
R29 N031 4 1m
R30 N032 4 1m
R16 N036 4 1m
R31 N037 4 1m
R20 N039 4 1m
R24 N038 4 1m
C18 A3Oi N039 Q=x*Table(V(GainInd,4), 1, 1.59p, 2, 3.98p, 3, 3.98p, 4, 159f)
C12 N033 N036 Q=x*Table(V(GainInd,4), 0, 1.59u, 1, 1.59u, 2, 455n, 3, 455n, 4, 1.77u, 5, 1.77u, 6, 1.61u)
C19 N030 N032 Q=x*Table(V(GainInd,4), 3, 5.31p, 4, 4.68p, 5, 4.68p, 6, 3.18p)
C21 N034 N037 Q=x*Table(V(GainInd,4), 3, 5.31p, 4, 4.68p, 5, 4.68p, 6, 3.18p)
C14 Clamp N038 Q=x*Table(V(GainInd,4), 3, 723n, 4, 455n)
B7 4 Clamp I=Uplim(Dnlim({Avo2_out/1Meg}* V(Avo3,4), {Isink}, 1m), {Isrc}, 1m)
S1 4 N028 EN 4 ENA
S2 4 N029 EN 4 ENA
S3 4 N035 EN 4 ENA
S4 4 N033 EN 4 ENA
S5 4 Avo3 EN 4 ENA
S6 4 Clamp EN 4 ENA
S7 4 A3O EN 4 ENZ
DREF 10 N006 DO
C28 N006 10 1f
R12 N056 N055 1k Noiseless
B10 N055 N056 I=1m*({Vos+TCVos* (Temp-27)})
I1 N010 4 {Ib-Ios}
I2 N002 4 {Ib}
G18 4 N055 6 4 1k
R13 4 N055 1m Noiseless
C34 N055 4 1p
G20 4 A1P N059 4 1m
R14 4 A1P 1k Noiseless
DIP1 10 A1P DIP
DIN1 A1P 4 DIN
G22 4 A2P 5 4 1m
R22 4 A2P 1k Noiseless
DIP2 10 A2P DIP
DIN2 A2P 4 DIN
R25 E_n 4 100k Noiseless
A8 4 4 4 4 4 4 E_n 4 OTA G=10u Iout=1m En=57n+table(Freq, 1k, 0, 10k, 5n, 49k, 35n, 50k, 400n, 51k, 40n, 80k, 33n, 100k, 210n) Vhigh=1k Vlow=-1k
R26 N057 N056 1k Noiseless
G23 N056 N057 E_n 4 1m
C36 N041 N040 {C1a_CMR}
G26 4 N040 N046 4 {G1_CMR}
R36 N040 4 1 Noiseless
R38 N041 N040 {R1a_CMR} Noiseless
R39 N041 4 {R2a_CMR} Noiseless
R40 N042 N043 {R1b_CMR} Noiseless
R41 N043 4 {R2b_CMR} Noiseless
G27 4 N044 N043 4 {G2_CMR}
C37 N043 N042 {C1b_CMR}
R42 N042 4 1 Noiseless
G28 4 N042 N041 4 1
R43 N044 4 1 Noiseless
R44 N044 N045 {R1c_CMR} Noiseless
R45 N045 4 {R2c_CMR} Noiseless
G29 4 CMR N045 4 {G3_CMR}
C38 N045 N044 {C1c_CMR}
R46 CMR 4 1 Noiseless
R27 N058 N057 1k Noiseless
G31 N057 N058 CMR 4 1m
B12 4 N046 I=500u*(V(6,4)+V(5,4)) Rpar=1k Cpar=1p
C40 N048 N047 {C1a_PSR}
G32 4 N047 10 4 {G1_PSR}
R48 N047 4 1 Noiseless
R49 N048 N047 {R1a_PSR} Noiseless
R50 N048 4 {R2a_PSR} Noiseless
R51 N049 N050 {R1b_PSR} Noiseless
R52 N050 4 {R2b_PSR} Noiseless
G33 4 N051 N050 4 {G2_PSR}
C41 N050 N049 {C1b_PSR}
R53 N053 4 1 Noiseless
G34 4 N049 N048 4 1
R54 N049 4 1 Noiseless
R55 N051 N052 {R1b_PSR} Noiseless
R56 N052 4 {R2b_PSR} Noiseless
G35 4 N053 N052 4 {G2_PSR}
C42 N052 N051 {C1b_PSR}
R57 N051 4 1 Noiseless
R58 PSR 4 1 Noiseless
R59 N053 N054 {R1b_PSR} Noiseless
R60 N054 4 {R2b_PSR} Noiseless
G36 4 PSR N054 4 {G2_PSR}
C43 N054 N053 {C1b_PSR}
R62 N009 A3N {Rge}
R63 N005 A3P {Rge}
A9 GainInd 4 4 4 4 4 R2 4 SCHMITT Vt=2.5 Tau=1u
C25 R2 4 10p Rpar=1G Noiseless
B5 4 Iq I=1m*({Iqm}* V(10,4)+{Iqb})
R5 Iq 4 1k
C22 Iq 4 1n
S10 A1O A3P R2 4 R2
S11 A2O A3N R2 4 R2
R10 N059 N058 1k Noiseless
G6 N058 N059 PSR 4 1m
B1 4 N014 I=1m*(V(3,4)/ (V(10,4)+1m)) Rpar=1k Cpar=10p
B2 4 N017 I=1m*(V(2,4)/ (V(10,4)+1m)) Rpar=1k Cpar=10p
B3 4 N022 I=1m*(V(1,4)/ (V(10,4)+1m)) Rpar=1k Cpar=10p
B4 4 N027 I=1m*(V(9,4)/ (V(10,4)+1m)) Rpar=1k Cpar=10p
A10 N002 4 4 4 4 4 4 4 OTA G=0 In=100f
A11 4 N010 4 4 4 4 4 4 OTA G=0 In=100f
B8 4 A3O I=Uplim(Dnlim(V(A3Oi,4)/{Zo_dc_out},-V(Vsat), 1m), V(Vsat), 1m)
B11 0 Vsat I=V(10,4)/100 Rpar=1 Cpar=1n
R71 N002 6 1µ
R72 N010 5 1µ
R73 N013 10 1µ
R74 N021 4 1µ
R75 N026 9 1µ
R8 8 N006 1µ
R9 7 A3O 1µ
R61 3 N015 1µ
R64 2 N018 1µ
R65 1 N023 1µ
R3 A1N A2N 10k Noiseless
R4 A1N A2N R=V(RG,4)
B6 4 RG I=1m*Table(V(GainInd,4), 0, 1G, 1, 8.43k, 2, 2.96k, 3, 13.84k, 4, 8.39k, 5, 4.296k, 6, 2.928k, 7, 2.24k) Rpar=1k Cpar={Csw}
.param Vos=418.9u TCVos=5n
.param Ib=10p Ios=10.001p
.param Vcm_min=0.1 Vcm_max=-0.1
.param Iscp=25m Iscn={-Iscp}
.param Iq_on=65u Iq_off=0.1u
.param Vsmin=1.7 Vsmax=3.6
.param ENToff={ENTon} ENTon=80u
.param NORM=Table({PGIA_gain}, 10, 100m, 20, 50m,
+40, 25m, 80, 12.5m, 100, 10m, 150, 6.67m, 200, 5m, 250, 4m)
.param Vdd=1.8
.param PGIA_gain=10
.param G0=Table({PGIA_gain}, 10, 0, 20, {Vdd}, 40, 0, 80, {Vdd}, 100, 0, 150, {Vdd}, 200, 0, 250, {Vdd})
.param G1=Table({PGIA_gain}, 10, 0, 20, 0, 40, {Vdd}, 80, {Vdd}, 100, 0, 150, 0, 200, {Vdd}, 250, {Vdd})
.param G2=Table({PGIA_gain}, 10, 0, 20, 0, 40, 0, 80, 0, 100, {Vdd}, 150, {Vdd}, 200, {Vdd}, 250, {Vdd})
.param Csw=2p
.param Avo_in=120
.param Avo2_dB_in={Avo_in-40}
.param Avo2_in = {pwr(10, (Avo2_dB_in)/20)}
.param Zo_dc_in=100
.param Avo_out=120
.param Avo2_dB_out={Avo_out-40}
.param Avo2_out = {pwr(10, (Avo2_dB_out)/20)}
.param Isink={-Isrc} Isrc=59.7m
.param Zo_dc_out=100
.model DCHRG D(Vfwd=20m Epsilon=10m Ron=1u Roff=1G Noiseless)
.model DIP D(Vfwd=100 Vrev={Vcm_max} Revepsilon=0.1 Noiseless)
.model DIN D(Vfwd=100 Vrev={-Vcm_min} Revepsilon=0.1 Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron={Zo_dc_out} Roff=1u Vt=500m Vh=-100m Noiseless)
.model QP SW(Ron={Zo_dc_out} Roff=1Meg Vt=0 Vh=-0.1) ; Vser=16.1m Noiseless) ;Ilimit={Iscp} Noiseless)
.model QN SW(Ron={Zo_dc_out} Roff=1Meg Vt=0 Vh=-25.8m) ; Vser=0 Noiseless) ;Ilimit={Iscp} Noiseless)
.model R2 SW(Ron=2k Roff=10k Vt=500m Vh=-100m Noiseless)
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=120
.param R1a_CMR=100Meg
.param fz1_CMR=0.15
.param fp1_CMR=1
.param R1b_CMR=1Meg
.param fz2_CMR=3
.param fp2_CMR=18
.param C1b_CMR={1 / (2 * pi * R1b_CMR * fz2_CMR)}
.param R2b_CMR = {R1b_CMR/ ((2 * pi * fp2_CMR * C1b_CMR
+* R1b_CMR) - 1)}
.param actual2_CMR = {R2b_CMR / (R1b_CMR + R2b_CMR)}
.param G2_CMR= {1/actual2_CMR}
.param R1c_CMR=1Meg
.param fz3_CMR=80
.param fp3_CMR=1.6k
.param C1c_CMR={1 / (2 * pi * R1c_CMR * fz3_CMR)}
.param R2c_CMR = {R1c_CMR/ ((2 * pi * fp3_CMR * C1c_CMR
+* R1c_CMR) - 1)}
.param actual3_CMR = {R2c_CMR / (R1c_CMR + R2c_CMR)}
.param G3_CMR= {1/actual3_CMR}
.param gain_PSR = {pow(10, (-Rej_dc_PSR/20))}
.param C1a_PSR = {1 / (2 * pi * R1a_PSR * fz1_PSR)}
.param R2a_PSR = {R1a_PSR/ ((2 * pi * fp1_PSR * C1a_PSR
+* R1a_PSR) - 1)}
.param actual1_PSR = {R2a_PSR / (R1a_PSR + R2a_PSR)}
.param G1_PSR = {gain_PSR/actual1_PSR}
.param Rej_dc_PSR=115.5
.param R1a_PSR=1Meg
.param fz1_PSR=100
.param fp1_PSR=800k
.param R1b_PSR=1Meg
.param fz2_PSR=20k
.param fp2_PSR={fp1_PSR}
.param C1b_PSR={1 / (2 * pi * R1b_PSR * fz2_PSR)}
.param R2b_PSR = {R1b_PSR/ ((2 * pi * fp2_PSR * C1b_PSR
+* R1b_PSR) - 1)}
.param actual2_PSR = {R2b_PSR / (R1b_PSR + R2b_PSR)}
.param G2_PSR= {1/actual2_PSR}
.param Rge=1m
.param Iqm=2.19u Iqb=61.8u
.ends MAX41400
